US07776857B2
A RBF was charged with 2-oxobutanoic acid (2.50 g, 24.5 mmol) and 3.2 mL of water and the mixture was cooled to 0° C. The acid was neutralized by slow addition of 20% aqueous KOH. 3′-chloroacetophenone (3.79 g, 24.5 mmol) was added, followed by a 1.3 M solution of KOH (2.20 g, 39.2 mmol) in MeOH. The reaction mixture was stirred at 0° C. for 48 h. The mixture was brought to pH 2 by dropwise addition of conc. H2SO4. The MeOH was removed in vacuo, and 25 mL of water was added. The heterogeneous mixture was filtered through Celite, and the filter cake was washed with water and CH2Cl2. The layers of the filtrate were separated, and the aqueous portion was extracted with additional CH2Cl2. The combined organics were dried with MgSO4, filtered and concentrated to a volume of 25 mL. Hexane was added until the mixture became cloudy, and upon standing a white crystalline solid formed. The mother liquor was decanted and the solids were washed with hexane and dried to provide 4-(3-chlorophenyl)-2-ethyl-2-hydroxy-4-oxobutanoic acid as a white crystalline solid. MS m/z=279 [M+Na]+. Calc'd for C12H13ClO4: 256.69.

reactant | 2-oxobutanoic acid | 24.5 mmol, 2.50 g | O=C(C(=O)O)CC | C4H6O3
reactant | KOH | [OH-].[K+]
reactant | 3′-chloroacetophenone | 24.5 mmol, 3.79 g | ClC=1C=C(C=CC1)C(C)=O | C8H7ClO
reactant | KOH | 39.2 mmol, 2.20 g | [OH-].[K+]
reactant | H2SO4 | OS(=O)(=O)O | H2O4S
solvent | MeOH | CO | CH4O
solvent | water | 3.2 mL | O | H2O
product | 4-(3-chlorophenyl)-2-ethyl-2-hydroxy-4-oxobutanoic acid | ClC=1C=C(C=CC1)C(CC(C(=O)O)(O)CC)=O | C12H13ClO4
